US07449467B2
tert-Butyl [(1R,3S)-3-isopropyl-3-(4-[6-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate
To a solution of 1-[6-(trifluoromethyl)pyridin-2-yl]piperazine (249 mg, 1.08 mmol), (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid (300 mg, 1.10 mmol), triethylamine (0.45 mL, 3.2 mmol) in methylene chloride (10 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (524 mg, 1.18 mmol). After being stirred overnight, the reaction was quenched with saturated sodium NaHCO3. The resulting solution was extracted with EtOAc three times. The combined organic layers were dried (MgSO4) and concentrated. Purification by column chromatography on silica gel (20% EA/hex to 40% EA/hexanes) provided 310 mg of the desired product. MS calculated for C24H36F3N4O3: (M+H) 485.3; found 485.3.

reactant | 1-[6-(trifluoromethyl)pyridin-2-yl]piperazine | 1.08 mmol, 249 mg | FC(C1=CC=CC(=N1)N1CCNCC1)(F)F | C10H12F3N3
reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid | 1.10 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | triethylamine | 3.2 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.18 mmol, 524 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(1R,3S)-3-isopropyl-3-(4-[6-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 310 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC(=CC=C1)C(F)(F)F | C24H35F3N4O3
